US08252806B2
(4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine (Compound B2)
Was prepared according to Method B from 2,4-dichloroquinazoline, 4-chloroaniline and 3,5-dimethylpyrazole. Mp. 209.3-211.2° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (4-Chloro-phenyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine | ClC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | C19H16ClN5
